US06103910
a) (R)-1-[[2-[2-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-3,4,5,6-tetrachloro-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
To a solution of 185 mg (1.65 mmol) potassium tert-butylate in 1 ml dimethylformamide at room temperature was added dropwise a solution of 186 mg (0.75 mmol) tetrachlorocatechol in 1 ml dimethylformamide. Stirring was continued for 2-3 min and a solution of 438 mg (1.50 mmol) (R)-(1) -bromoacetyl-pyrrolidine-2-carboxylic acid tert-butyl ester in 2 ml dimethylformamide was added within 1-2 min. The reaction mixture was stirred for additional 4 h at room temperature. The solvent was removed in vacuo and the residue purified by flash-chromatography to yield 229 mg (45%) of the title compound as a white foam. MS m/e (%): 671 (M+H+, 100), 615 (19), 559 (14).

reactant | potassium tert-butylate | 1.65 mmol, 185 mg | CC(C)(C)[O-].[K+]
reactant | tetrachlorocatechol | 0.75 mmol, 186 mg | ClC=1C(=C(C(=C(C1O)O)Cl)Cl)Cl | C6H2Cl4O2
reactant | bromoacetyl-pyrrolidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCC1)C(CBr)=O | C11H18BrNO3
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (R)-1-[[2-[2-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-3,4,5,6-tetrachloro-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 229 mg, 45% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C28H36Cl4N2O8
